US07622583B2
N-[5-chloro-2-(2-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-4-isopropoxy-benzenesulfonamide
N-(2-bromo-5-chloro-pyridin-3-yl)-4-isopropoxy-N-methoxymethyl-benzenesulfonamide (592 mg, 1.32 mmol) was placed in a dry 25 mL round-bottom flask. The flask was evacuated and purged with nitrogen, followed by the addition of THF (5 mL). The homogeneous mixture was lowered to −5° C. and iPrMgCl (1.72 mL, 2.0 M) was added dropwise. Upon completion of the addition, the reaction was stirred 60 minutes, followed by the addition of N-methoxy-2,N-dimethyl-nicotinamide (379 mg, 2.11 mmol). The reaction was stirred overnight, during which the ice-bath warmed to room temperature. The following day, the reaction was quenched with a small quantity of MeOH and the solvents evaporated in vacuo. The residue was subsequently treated with 4.0 M HCl in dioxane (6 mL, 24.0 mmol) and H2O (6.0 mL), and then stirred at 80° C. for two hours. The resultant solution was concentrated in vacuo and saturated sodium bicarbonate was added to adjust to neutral pH. The solution was extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude sulfonamide was finally purified via automated flash chromatography to afford the title compound: 1H NMR (400 MHz, CDCl3) δ 10.90 (s, 1 H), 8.58 (d, 1 H), 8.17 (m, 2H), 7.80 (d, 2H), 7.49 (d, 1 H), 7.16 (m, 1 H), 6.89 (d, 2H), 4.57 (sep, 1 H), 2.34 (s, 3H), 1.33 (d, 6H); MS (ES) M+H expect 445.9, found 446.1.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-isopropoxy-N-methoxymethyl-benzenesulfonamide | 1.32 mmol, 592 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)OC(C)C)COC)Cl | C16H18BrClN2O4S
reactant | N-methoxy-2,N-dimethyl-nicotinamide | 2.11 mmol, 379 mg | CON(C(C1=C(N=CC=C1)C)=O)C | C9H12N2O2
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 24.0 mmol, 6 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 6.0 mL | O | H2O
product | N-[5-chloro-2-(2-methyl-pyridine-3-carbonyl)-pyridin-3-yl]-4-isopropoxy-benzenesulfonamide | ClC=1C=C(C(=NC1)C(=O)C=1C(=NC=CC1)C)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C | C21H20ClN3O4S
